Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Exertional dyspnea
 
Major Surgical or Invasive Procedure:
LHC/RHC
 
History of Present Illness:
___ with h/o uncontrolled DM on insulin, HTN, HL, morbid 
obesity presenting to the ED last night from her PCP office with 
new onset worsening DOE x1mo. She has had declining exercise 
tolerance over the past month, could previously walk 20 mins but 
now with worsening SOB over past 2d with minimal exertion (SOB 
walking <1block).  Pt cannot identify trigger for worsening DOE 
2 days prior to presentation.  Pt reports some SOB at rest as 
well today. Also reports chest burning with exertion, which 
resolves with rest and dry cough worse in am x1 month. Recent 
loss of 30lbs intentionally, but gained back within last 
2months. Denies N/V, weakness, lightheadedness, HA, 
palpitations, ___ swelling more than baseline.  Denies orthopnea, 
PND.

In the ED, patient slightly tachycardic and diaphoretic. O2 sat 
95% on RA; able to speak in full sentences. Fine crackles at 
bases bilaterlly. Initial vitals: HR 98 BP 140/80, resp 22, sat 
98% on 2L. EKG shows sinus tach at 100bpm, non-specific T-wave 
changes in anterior and lateral leads.  Pt put on rule-out 
protocol and CXR and BNP were obtained. CXR & BNP consistent w/ 
CHF, so 20mg IV Lasix given. Labs significant for trops neg x2, 
chem and CBC WNL with BUN/CR ___, lactate 2.4-->1.3. 
Cardiology was consulted and recommended baseline echo and 
dobutamine stress echo in am. Echo this morning showing new left 
ventricular cavity dilation with extensive systolic dysfunction 
suggestive of a non-ischemic cardiomyopathy with EF ___.  In 
setting of baseline echo results, dobutamine stress echo on 
hold. Patient given ASA 325mg, lisinopril 20mg, Metop succinate 
25mg, amlodipine 5mg, rosuvastatin 20mg.  Pt given levothyroxine 
dose.

Vitals on transfer were 97.2 98 140/80 22 98% 2L.
   
On arrival to the floor, patient without complaints other than 
some SOB while talking.  Pt denies recent flu like illness, TB 
or HIV risk factors, Hx of rheumatologic conditions. 
 
Past Medical History:
-poorly controlled T2DM
-NASH with early cirrhosis
-morbid obesity
-OSA on CPAP
-HTN
-HL
  
 
Social History:
___
Family History:
Father with heart disease (?large heart), sudden cardiac death 
in ___. Mother with CHF. Sister with MVP. Multiple aunts and 
uncles with CAD. 
 
Physical Exam:
Admission PE:
VS: T 98.8, BP 151/78, HR 105, RR 22, SpO2 94% RA 
GENERAL: morbidly obese, A&Ox3, in NAD. Mood, affect 
appropriate.  
HEENT: Sclera anicteric. 
NECK: Could not assess JVP ___ body habitus
CARDIAC: RRR. No m/r/g.  
LUNGS: Tachypneic, speaks in full sentences. No accessory muscle 
use. CTAB, no crackles, wheezes or rhonchi.  
ABDOMEN: Obese, soft, NTND.   
EXTREMITIES: Trace ___ edema. Extremities well perfused with 1+ 
DP pulses.  Feet mildly cool but no signs of mottling.
NEURO: grossly nonfocal
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.   

Discharge PE:
: 98, 98/56, 75, 20, 96%RA  
___  
wt: 159.9kg --> 156.5kg --> 153.3kg-->152  
GENERAL: morbidly obese, A&Ox3, in NAD. Mood, affect 
appropriate.  
NECK: Could not assess JVP ___ body habitus  
CARDIAC: RRR. No m/r/g.  
LUNGS: Breathing comfortable. No accessory muscle use. CTAB, no 
crackles, wheezes or rhonchi.  
ABDOMEN: Obese, soft, NTND.  
EXTREMITIES: Trace ___ edema. Extremities warm and well perfused 
with 1+ DP pulses. cath sites intact.  
NEURO: grossly nonfocal  

 
Pertinent Results:
Admission Labs:
___ 09:26PM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 09:26PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-SM 
___ 09:26PM URINE  RBC-1 WBC-8* BACTERIA-FEW YEAST-NONE 
EPI-12 TRANS EPI-<1 RENAL EPI-<1
___ 06:22PM   LACTATE-2.4*
___ 06:10PM   GLUCOSE-209* UREA N-17 CREAT-0.6 SODIUM-141 
POTASSIUM-3.8 CHLORIDE-99 TOTAL CO2-28 ANION GAP-18
___ 06:10PM   cTropnT-<0.01
___ 06:10PM   proBNP-894*
___ 06:10PM   CALCIUM-8.7 PHOSPHATE-3.3 MAGNESIUM-1.8
___ 06:10PM   WBC-7.6# RBC-4.45 HGB-12.6 HCT-37.8 MCV-85 
MCH-28.3 MCHC-33.3 RDW-14.9
___ 06:10PM   NEUTS-68.8 ___ MONOS-4.3 EOS-1.1 
BASOS-0.1
___ 06:10PM   PLT COUNT-194
___ 06:10PM   ___ PTT-31.6 ___

INTERIM LABS:
___ 06:45AM BLOOD VitB12-356
___ 07:04AM BLOOD TSH-6.1*
___ 07:04AM BLOOD Free T4-0.99
___ 06:45AM BLOOD ___ * Titer-1:40

DISCHARGE LABS:
___ 08:00AM BLOOD WBC-8.8 RBC-4.68 Hgb-12.8 Hct-39.2 MCV-84 
MCH-27.3 MCHC-32.5 RDW-15.6* Plt ___
___ 08:00AM BLOOD Glucose-86 UreaN-26* Creat-0.7 Na-139 
K-4.1 Cl-99 HCO3-33* AnGap-11
___ 08:00AM BLOOD Calcium-9.5 Phos-5.3* Mg-2.1  

MICROBIOLOGY:
 CMV IgG ANTIBODY (Final ___: 
      POSITIVE FOR CMV IgG ANTIBODY BY EIA. 
     
   CMV IgM ANTIBODY (Final ___: 
      NEGATIVE FOR CMV IgM ANTIBODY BY EIA. 

NO ANTIBODY TO B. ___ DETECTED BY EIA. 
Sinus tachycardia. Leftward axis. Lateral ST-T wave 
abnormalities. Since the previous tracing of ___ the axis is 
more leftward and ST-T wave 
abnormalities are more prominent.  
  Intervals Axes 
Rate PR QRS QT/QTc P QRS T 
107 140 94 344/426 58 -14 101 
CXR:  PA and lateral views of the chest were obtained.  There is 
a small 
right pleural effusion, best assessed on the lateral view.  A 
tiny left 
pleural effusion cannot be excluded.  Heart size appears top 
normal.  The 
aorta is unfolded.  There is mild interstitial edema without 
signs of 
pneumonia or pneumothorax.  Bony structures are intact. 
  
IMPRESSION:  Mild pulmonary interstitial edema with probable 
tiny bilateral pleural effusions. 
TTE: ___
The left atrium is mildly dilated. Left ventricular wall 
thicknesses are normal. The left ventricular cavity is 
moderately dilated. There is moderate to severe global left 
ventricular hypokinesis with relative preservation of the apex 
(LVEF = ___ %). No masses or thrombi are seen in the left 
ventricle. Right ventricular chamber size is normal with mild 
global free wall hypokinesis. The aortic valve leaflets (3) 
appear structurally normal with good leaflet excursion and no 
aortic stenosis or aortic regurgitation. The mitral valve 
appears structurally normal with trivial mitral regurgitation. 
The pulmonary artery systolic pressure could not be determined. 
There is no pericardial effusion.

IMPRESSION: Suboptimal image quality. Left ventricular cavity 
dilation with extensive systolic dysfunction suggestive of a 
non-ischemic cardiomyopathy.
Compared with the prior study (images reviewed) of ___, 
the pathologic findings are new.
LHC: ___
1) Selective coronary angiography of this right-dominant system 
demonstrated moderate single-vessel branch coronary artery 
disease with 
diffuse slow flow throughout. The LMCA was long and had no 
angiographically-apparent flow-limiting stenoses. The LAD had 
mild 
luminal irregularities and a large D1 with proximal 50% 
stenosis. The 
LCx provided an atrial branch and small OM1 proximally, then a 
large 
branching OM2 that had minimal luminal irregularities; there was 
a tiny 
short AV groove LCx after the OM2 take-off. The RCA was a very 
large-caliber vessel with minimal luminal irregularities; there 
was a 
large RPDA and large long RPL2, and a modest caliber RPL1. 
2) Limited resting hemodynamics revealed mildly-elevated 
left-sided 
filling pressures with an LVEDP of 17 mmHg. There was mild 
pulmonary 
arterial hypertension, with a PA pressure of 41/21 mmHg. There 
was 
systemic arterial normotension, with a central aortic pressure 
of 116/76 
mmHg. There was no aortic valve gradient seen on careful 
pullback from 
the left ventricle to the aorta. 
3) After the procedure, a Terumo Radial band was applied to the 
right 
radial arteriotomy site with adequate hemostasis. The left 
antecubital 
venous sheath was removed and pressure was manually applied with 

adequate hemostasis. 
  
FINAL DIAGNOSIS:     
1. Moderate single-vessel branch coronary artery disease with 
diffuse 
slow flow consistent with microvascular dysfunction. 
2. Mild pulmonary arterial hypertension. 
3. Mild left ventricular diastolic dysfunction. 

   

 
Brief Hospital Course:
___ with h/o uncontrolled DM on insulin, HTN, HL, morbid 
obesity presenting with new onset worsening DOE x1mo found to 
have new extensive systolic dysfunction suggestive of a 
non-ischemic cardiomyopathy with EF ___ on echo.

# Acute systolic heart failure: Pt admitted following TTE 
ordered in the ED which showed extensive systolic dysfunction 
and global hypokenesis with EF ___ not present on last echo 
in ___.  Pt with evidence of extra volume on physical exam and 
progressive CHF symptoms (DOE). LHC used to r/o ischemic 
cardiomyopathy and cath showed clean coronaries.  Pt without Hx 
of rheumatologic conditions or symptoms, no Hx of recent viral 
illness.  TSH was not markedly elevated, ___ positive only at a 
tieter of 1:40, Parvovirus IgG + IgM -, CMV IgG + IgM -, Lyme 
negative. She was transitioned to 60 mg torsemide with good 
urine output, spirinolactone 12.5 mg daily, carvediol 12.5 mg 
BID, lisinopril 40 mg daily.  She was discharged home for follow 
up with the heart failure clinic and reffered for outpatient 
cardiac MRI. Patient was actively diuresed from an admission 
weight of 159.9 kg to 152 kg on discharge. 
.
# Hematuria. On HD 2, pt developed gross hematuria with UA c/w 
hematuria.  Hematuria resolved on HD3 and UA was negative.  
Unclear etiology.  
.
# DM: patient was seen by the ___ consult service for 
uncontroled blood glucose in the 300s with an A1c of 13%.  She 
was placed on her home U500 dosing of 60 U for breakfast (300 U 
equivalent), 60 U for lunch and 40 U for dinner.  She was 
discharged with follow up with her endocrinologist.
.
# Hypothyroidism: TSH mildly elevated, Pt continued on home 
levothyroxine dose.
.
# OSA: CPAP continued
.
# HTN: as patient had a depressed EF amlodipine was held 
metoprolol switched to carvediol and the dose increased to 12.5 
mg BID in addition to spirnolactone, lisinopril and torsemide.
.
Transitional Issues:
-Dry Weight: approx 328lb.
-cardiac MR as an outpatient
-___ is a full code
 
Medications on Admission:
Preadmission medications listed are correct and complete.  
Information was obtained from PatientwebOMR.
1. Amlodipine 10 mg PO DAILY 
2. Vitamin D 50,000 UNIT PO 1X/WEEK (___) 
3. Regular 60 Units Breakfast
Regular 50 Units Lunch
Regular 40 Units Dinner
4. Ipratropium Bromide MDI 2 PUFF IH BID:PRN SOB or wheezing 
5. Levothyroxine Sodium 100 mcg PO DAILY 
6. Lisinopril 40 mg PO DAILY 
7. MetFORMIN XR (Glucophage XR) 750 mg PO DAILY 
Do Not Crush 
8. Metoprolol Succinate XL 25 mg PO DAILY 
9. Rosuvastatin Calcium 20 mg PO DAILY 
10. Calcium Carbonate 500 mg PO DAILY 
11. Loperamide 2 mg PO DAILY:PRN diarrhea 
12. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1. Ipratropium Bromide MDI 2 PUFF IH BID:PRN SOB or wheezing 
2. Levothyroxine Sodium 100 mcg PO DAILY 
3. Lisinopril 40 mg PO DAILY 
4. Multivitamins 1 TAB PO DAILY 
5. Rosuvastatin Calcium 20 mg PO DAILY 
6. MetFORMIN XR (Glucophage XR) 750 mg PO DAILY 
Do Not Crush 
7. Vitamin D 50,000 UNIT PO 1X/WEEK (___) 
8. Loperamide 2 mg PO DAILY:PRN diarrhea 
9. Calcium Carbonate 500 mg PO DAILY 
10. Regular 60 Units Breakfast
Regular 50 Units Lunch
Regular 40 Units Dinner
11. Aspirin 81 mg PO DAILY 
RX *Adult Low Dose Aspirin 81 mg 1 Tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*3
12. Carvedilol 12.5 mg PO BID 
Hold for HR <55, SBP <90 
RX *carvedilol 12.5 mg 1 Tablet(s) by mouth twice daily Disp 
#*60 Tablet Refills:*3
13. Spironolactone 12.5 mg PO DAILY 
hold for SBP<90 
RX *spironolactone 25 mg 0.5 (One half) Tablet(s) by mouth daily 
Disp #*30 Tablet Refills:*3
14. Torsemide 60 mg PO DAILY 
hold for sbp<90 
RX *torsemide 20 mg 3 Tablet(s) by mouth daily Disp #*90 Tablet 
Refills:*3

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute systolic heart failure

 
Discharge Condition:
Clear and coherent
Alert and interactive
Ambulatory - independent

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___.  
You were admitted because you were having shortness of breath, 
especially with exertion.  An echocardiogram was done which 
showed that your heart's pumping ability was decreased, which 
was consistent with new heart failure.  You were admitted and 
given medicine to help you pee off the excess fluid in your 
body.  Your kidney function remained stable during this process. 
You had a cardiac catheterization which showed that your 
coronary arteries were not the cause of your new heart failure.

Your medicines have been changed.  Please refer to your attached 
med list for the changes. Please follow-up at the appointments 
listed below.

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.  Your weight at discharge was 152 kg or about 335 
lbs.  
 
Followup Instructions:
___